US05444079
Step A: 3',4'-dihydro-6'-methoxyspiro[imidazolidine-4,1'(2'H)-naphthalene]-2,5-dione
A mixture of 35.2 g (0.2 mol) of 6-methoxy-1-tetralone, 19.5 g (0.3 mol) of potassium cyanide and 134.4 g (1.4 mol) of ammonium carbonate in 280 mL of EtOH was placed in a stainless steel bomb and heated at 110° C. for 48 hours. After cooling, the mixture was poured in 1.4 L of water. It was allowed to sit at ambient temperature for 3 days. The precipitated solid was filtered and washed several times with water and dried to give 48.1 g of a brown solid: mp 218°-220° C. 1H-NMR (DMSO-d6)d10.75(s, 1H),8.45(s, 1H),6.96(d, 1H),6.79 (d, 1H), 6.70 (s, 1H), 3.72 (s, 3H), 2.73 (t, 2H), 1.70-2.20 (m, 4H).

reactant | 6-methoxy-1-tetralone | 0.2 mol, 35.2 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | potassium cyanide | 0.3 mol, 19.5 g | [C-]#N.[K+]
reactant | ammonium carbonate | 1.4 mol, 134.4 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | EtOH | 280 mL | CCO | C2H6O
solvent | water | 1.4 L | O | H2O
product | 3',4'-dihydro-6'-methoxyspiro[imidazolidine-4,1'(2'H)-naphthalene]-2,5-dione | 48.1 g | COC=1C=C2CCCC3(C2=CC1)NC(NC3=O)=O | C13H14N2O3
